US07238808B2
2,4-Difluoro-5-[8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.18) (310 mg, 0.88 mmol) and 5-Bromo-2,4,-difluorobenzenesulfonamide (226 mg, 0.83 mmol) according to general procedure II. Obtained as an off-white solid (56 mg, 12%). MS (ISP) 546.2 [(M+H)+]; mp 306–307° C.

reactant | 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 0.88 mmol, 310 mg | C(#C)C1=CN=C2N1C=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H8F6N2
reactant | 5-Bromo-2,4,-difluorobenzenesulfonamide | 0.83 mmol, 226 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 2,4-Difluoro-5-[8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-benzenesulfonamide | FC1=C(C=C(C(=C1)F)C#CC1=CN=C2N1C=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F)S(=O)(=O)N | C23H11F8N3O2S
